US07812022B2
To a suspension of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (75 mg, 0.16 mmol) (prepared according to a procedure similar to that described in Example 27, Step C) and N-[(3-aminophenyl)methyl]-N-[2-(dimethylamino)ethyl]-2,2,2-trifluoroacetamide (58 mg, 0.20 mmol) in 2-propanol (3 mL) was added 2 drops of concentrated HCl. The mixture was heated to 180° C. in a microwave for 25 min. The reaction mixture was diluted with 20 mL DCM and 5 mL MeOH, and washed with saturated aqueous NaHCO3. The aqueous layer was extracted with DCM, and the combined organic layers were dried over Na2SO4, filtered, and purified by flash chromatography to give the title compound (24 mg, 24% yield). 1H NMR (400 MHz, d6-DMSO): δ 10.94 (s, 1H), 9.52 (s, 1H), 8.85 (d, J=7.0 Hz, 1H), 8.51 (d, J=9.2 Hz, 1H), 8.27 (d, J=5.1 Hz, 1H), 8.02 (s, 1H), 7.83 (d, J=7.8 Hz, 1H), 7.74 (s, 1H), 7.46-7.60 (m, 4H), 7.36 (d, J=7.9 Hz, 1H), 7.26 (t, J=8.1 Hz, 2H), 7.12-7.21 (m, 2H), 6.92 (d, J=7.7 Hz, 1H), 6.53 (d, J=5.2 Hz, 1H), 3.66 (s, 2H), 2.54-2.57 (m, 2H), 2.27-2.33 (m, 2H), 2.08 (s, 6H). MS (ESI) m/z=620 [M+H]+.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 0.16 mmol, 75 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | N-[(3-aminophenyl)methyl]-N-[2-(dimethylamino)ethyl]-2,2,2-trifluoroacetamide | 0.20 mmol, 58 mg | NC=1C=C(C=CC1)CN(C(C(F)(F)F)=O)CCN(C)C | C13H18F3N3O
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | N-{3-[3-(2-{[3-({[2-(Dimethylamino)ethyl]amino}methyl)phenyl]-amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 24 mg, 24% yield | CN(CCNCC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O)C | C35H32F2N8O
